US09382188B2
A) 1-(2-bromo-5-((tert-butyl(dimethyl)silyl)oxy)benzyl)cyclopentanecarbonitrile
Under a nitrogen atmosphere, to a solution of diisopropylamine (0.36 mL) in THF (7.0 mL) was added a 1.6 M solution of n-butyllithium in hexane (1.6 mL) at 0° C., and the mixture was stirred for 10 min. Cyclopentanecarbonitrile (0.28 mL) was added at −78° C., and the mixture was stirred for 30 min. A solution of (4-bromo-3-(bromomethyl)phenoxy) (tert-butyl)dimethylsilane (503 mg) in THF (3.0 mL) was added, and the mixture was stirred at −78° C. for 4 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (471 mg) as a colorless oil.

reactant | diisopropylamine | 0.36 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | Cyclopentanecarbonitrile | 0.28 mL | C1(CCCC1)C#N | C6H9N
reactant | (4-bromo-3-(bromomethyl)phenoxy) (tert-butyl)dimethylsilane | 503 mg | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)CBr | C13H20Br2OSi
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 7.0 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6 mL | CCCCCC | C6H14
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 1-(2-bromo-5-((tert-butyl(dimethyl)silyl)oxy)benzyl)cyclopentanecarbonitrile | 471 mg | BrC1=C(CC2(CCCC2)C#N)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C19H28BrNOSi
